Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
azithromycin
 
Attending: ___
 
Chief Complaint:
Hyperglycemia
 
Major Surgical or Invasive Procedure:
Surgical removal non-restorable, grossly decayed teeth #4, 16, 
20, 31 (___)

 
History of Present Illness:
This is a ___ yo woman with a PMH of IDDM (since age ___, 
gastroparesis, celiac disease, s/p gastric bypass ___, 
hypothyroidism, anxiety, fibromyalgia, bipolar disorder, who 
presents with 2 days of blood sugars >600, found to be in DKA. 

Of note, patient was treated with a 7 day course of Augmentin  
500-125 TID for a tooth infection from ___ to ___ and has been 
having ongoing issues with blood sugar control using her home 
regimen of: 

Lantus 12 QAM and 10 QPM 
Novolog sliding scale w/ meals
200-240 1 units 
240-280 2 units 
280-320 4 units 
320-360 8 units 
360-400 14 units 
>400 14 units and call MD 

She was sent to the ED by her PCP and started on the DKA 
protocol and given Unasyn and seen by ___.  In ED initial VS: 
T 98.4 HR 77 BP 106/72 RR 14 SpO2 100% RA. Exam significant for 
right back molar tender, no fluctuance of gums. Mild diffuse 
abdominal tenderness (baseline). 

She seemed to be improving, and the plan was for her to go home. 
However, around 5 AM, she became hypotensive, confused, found to 
have MAPs in the mid-high 50's.  ECG was unremarkable. A CT head 
was obtained, which showed no acute abnormality on prelim read. 
She was started on Levophed and admitted to the ICU for further 
management. 

At 430AM her gap had closed and she was transitioned to 
subcutaneous insulin without overlap with the gtt given that her 
bloof sugars were low. This morning in the ICU, she is hungry 
but getting full easily and not eating much. She also is having 
ongoing pain in her infected tooth. She is worried her sugars 
will get too low. So far she has received around 6L of fluid. 

 
Past Medical History:
-DIABETES TYPE I                                                 

-CELIAC DISEASE                                                  

-GASTROPARESIS                                                   

-HYPOTHYROIDISM                                                  

-DEPRESSION                                                      

-ANXIETY                                                         

-POST-TRAUMATIC STRESS DISORDER                                  

-FIBROMYALGIA                                                    

-GASTROESOPHAGEAL REFLUX                                         

-UTERINE FIBROIDS   

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS:  T 97.7 HR 75 BP 123/63 RR 20 Spo2 97% on ra
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No rashes 
NEURO: AAOx3

DISCHARGE PHYSICAL EXAM
GENERAL: Alert, oriented, no acute distress  
HEENT: MMM, posterior oropharynx erythematous but no evidence of
collection or abscess formation. S/p tooth extraction x 4 (4, 
16,
20, 31). Some parotid/mandibular soft tissue swelling.
NECK: supple, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs,
gallops  
NEURO: AAOx3, CN grossly intact, moving all 4 extremities
spontaneously and with purpose.

 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 10:25AM BLOOD WBC-8.3 RBC-4.62 Hgb-13.2 Hct-39.1 MCV-85 
MCH-28.6 MCHC-33.8 RDW-15.1 RDWSD-46.2 Plt ___
___ 10:25AM BLOOD Neuts-68.2 ___ Monos-5.9 Eos-0.5* 
Baso-0.8 Im ___ AbsNeut-5.63 AbsLymp-1.98 AbsMono-0.49 
AbsEos-0.04 AbsBaso-0.07
___ 10:25AM BLOOD Glucose-223* UreaN-6 Creat-1.1 Na-137 
K-4.8 Cl-94* HCO3-16* AnGap-27*
___ 10:25AM BLOOD Calcium-8.5 Phos-3.3 Mg-1.6
___ 06:23PM BLOOD HBsAg-NEG
___ 06:23PM BLOOD HIV Ab-NEG
___ 06:23PM BLOOD HCV Ab-NEG
___ 10:43AM BLOOD ___ pO2-44* pCO2-31* pH-7.40 
calTCO2-20* Base XS--3
___ 05:23PM BLOOD Glucose-178* Lactate-4.3* Na-133 K-3.3 
Cl-105 calHCO3-17*
___ 05:23PM BLOOD O2 Sat-88

INTERVAL LABS
#ERROR!
___ 01:42AM BLOOD ALT-29 AST-57* LD(LDH)-202 AlkPhos-58 
TotBili-0.2
___ 01:55AM BLOOD Lactate-2.3*

DISCHARGE LABS
#ERROR!
___ 06:55AM BLOOD WBC-3.8* RBC-3.48* Hgb-10.1* Hct-30.4* 
MCV-87 MCH-29.0 MCHC-33.2 RDW-15.1 RDWSD-48.3* Plt ___
___ 06:55AM BLOOD Glucose-106* UreaN-6 Creat-0.7 Na-140 
K-4.4 Cl-104 HCO___ AnGap-10
___ 06:55AM BLOOD Calcium-7.9* Phos-3.7 Mg-1.4*

MICRO
#ERROR!
___ 11:00 am URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

Blood Culture, Routine (Final ___:    NO GROWTH. 

Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a PMH of IDDM, 
gastroparesis, celiac disease, s/p gastric bypass ___, 
hypothyroidism, anxiety, fibromyalgia, bipolar disorder, and IBS 
who was referred by her PCP for DKA in the setting of recent 
tooth infection, initially found to be hypotensive, was admitted 
to the MICU and was briefly on pressors. DKA resolved with 
insulin administration, also underwent tooth extraction of teeth 
4, 16, 20, and 31 by OMFS given non-restorable severely decayed 
teeth. She also started on a 10 day course of augmentin for 
odontogenic infection which was thought to be the trigger of her 
DKA.

ACUTE ISSUES
#ERROR!
# DM Type I
# DKA - Patient has a history of type 1 diabetes, was found to 
have persistently elevated blood sugars. Prior to admission she 
had been taking antibiotics for a broken tooth and abscess in 
the outpatient setting. On admission found to be in DKA with 
anion gap 27. DKA protocol was initiated, and anion gap closed 
___ and was later transitioned to SC insulin. Trigger for DKA 
was thought to be secondary to odontogenic infection per below. 
___ was consulted for insulin titration. During hospital 
course, there were ongoing issues with hypoglycemia, patient was 
discharged on Lantus 4 units QAM 2 units QPM, and switched to 
regular insulin 2 units TID with meals given her high risk of 
hypoglycemia.

# Odontogenic Infection - Patient was recently diagnosed with 
tooth infection in the outpatient setting, was on amoxicillin, 
however ran out of her supply prior to admission. ___ was 
consulted regarding need for tooth extraction. Panorex was 
obtained which showed poor dentition with multiple necrotic 
teeth and root tips. Given concern for follow-up with outpatient 
dentist and high risk of repeat DKA in the setting of 
non-restorable severely decayed teeth, patient underwent 
extraction of the teeth 4, 16, 20, 31. She was initially on 
unasyn, however subsequently transitioned to augmentin for a 
total 10 day course to be completed ___. Was discharged on 
short course of tramadol for pain control.

# Hypotension - In the ED, patient had hypotension and 
aggressive fluid resuscitation for DKA. She was briefly started 
on levophed and was quickly weaned off. She was observed in the 
MICU with stable SBPs in the ___. Hypotension was possibly 
in the setting of hypovolemia from DKA. Lower suspicion for 
septic shock, given patient remained afebrile without 
leukocytosis. 

CHRONIC ISSUES
#ERROR!
# Anxiety, PTSD, Fibromyalgia: Patient was continued home 
clonazepam 0.5 daily prn, Trazodone, Oxcarbazepine, and 
gabapentin.

#Hypothyroidism: Was continued on home Synthroid ___ mcg daily.

#IBS - History of mixed constipation and diarrhea. Patient was 
continued on home lactulose and senna. Given issues with ongoing 
constipation during hospitalization, was started on MiraLAX 
daily.

TRANSITIONAL ISSUES: 
#ERROR!
[ ] New/Changed Medications
- Lantus decreased to 4 units QAM and 2 units QPM
- Started on regular insulin 2 units TID with meals
- Started Augmentin 500mg BID to continue through ___

[ ] Outpatient follow-up with primary dentist

# Communication: Name of health care proxy: ___ 
___: Husband 
Phone number: ___ 
# Code: Full, presumed

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 300 mg PO QHS 
2. OXcarbazepine 300 mg PO QAM 
3. Latuda (lurasidone) 80 mg oral Every day with dinner 
4. Pregabalin 300 mg PO BID 
5. ClonazePAM 0.5 mg PO DAILY:PRN anxiety 
6. Glargine 12 Units Breakfast
Glargine 10 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin
7. Multivitamins 1 TAB PO DAILY 
8. OXcarbazepine 600 mg PO QHS 
9. Senna 17.2 mg PO BID:PRN Constipation - First Line 
10. Lactulose ___ mL PO DAILY:PRN constipation 
11. Pantoprazole 40 mg PO Q24H 
12. Ferrous Sulfate 325 mg PO DAILY 
13. Cyanocobalamin 1000 mcg PO DAILY 
14. Levothyroxine Sodium 200 mcg PO DAILY 
15. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID:PRN Pain - Mild  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
Continue to take through ___ 
RX *amoxicillin-pot clavulanate [Augmentin] 500 mg-125 mg 1 
tablet(s) by mouth Twice daily Disp #*5 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth Twice 
daily as needed Disp #*30 Capsule Refills:*1 
4.  Glucagon 1 mg IM Q15MIN:PRN hypoglycemia Duration: 1 Week 
Take for severe hypoglycemia if unable to take anything by mouth 

RX *glucagon (human recombinant) [Glucagon Emergency Kit 
(human)] 1 mg 1 Every 15 minutes as needed Disp #*1 Kit 
Refills:*0 
5.  Ibuprofen 600 mg PO TID:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
6.  Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using REG Insulin 
7.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate Duration: 3 Days 
RX *tramadol [Ultram] 50 mg 1 tablet(s) by mouth Every 6 hours 
as needed Disp #*12 Tablet Refills:*0 
8.  Glargine 4 Units Breakfast
Glargine 2 Units Bedtime
Regular 2 Units Breakfast
Regular 2 Units Lunch
Regular 2 Units Dinner
Insulin SC Sliding Scale using REG Insulin
RX *insulin regular human [Humulin R Regular U-100 Insuln] 100 
unit/mL AS DIR Up to 4 Units QID per sliding scale. 2 Units 
before BKFT; 2 Units before LNCH; 2 Units before DINR; Units QID 
per sliding scale Disp #*3 Vial Refills:*0 
9.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY  
10.  ClonazePAM 0.5 mg PO DAILY:PRN anxiety  
11.  Cyanocobalamin 1000 mcg PO DAILY  
12.  Ferrous Sulfate 325 mg PO DAILY  
13.  Lactulose ___ mL PO DAILY:PRN constipation  
14.  Latuda (lurasidone) 80 mg oral Every day with dinner  
15.  Levothyroxine Sodium 200 mcg PO DAILY  
16.  Multivitamins 1 TAB PO DAILY  
17.  OXcarbazepine 300 mg PO QAM  
18.  OXcarbazepine 600 mg PO QHS  
19.  Pantoprazole 40 mg PO Q24H  
20.  Pregabalin 300 mg PO BID  
21.  Senna 17.2 mg PO BID:PRN Constipation - First Line  
22.  TraZODone 300 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
#ERROR!
DKA
Non-restorable decayed teeth #4, 16, 20, ___ s/p extraction

SECONDARY DIAGNOSIS
#ERROR!
T1DM
IBS
Hypothyroidism
Anxiety
PTSD
Fibromyalgia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why did you come to the hospital?
-You were initially sent to the hospital by your primary care 
physician because of uncontrolled diabetes and high blood sugars

What happened during your hospitalization?
-You were given insulin and fluids in order to correct your high 
blood sugars
-You briefly required medications in order to help raise your 
blood pressure
-You were found to have decayed teeth and underwent surgical 
removal of 4 teeth by the oral maxillofacial surgeons
-You were continued on antibiotics for your tooth decay and 
infection

What should you do when you leave the hospital?
-Continue to take all of your medications as prescribed
-Follow-up with your primary care physician ___ 1 week
-Follow-up with your outpatient dentist
-Please keep all of your other scheduled healthcare appointments

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___